Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Amiodarone
 
Attending: ___.
 
Chief Complaint:
Hypotension
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ man with ESRD, diastolic and systolic CHF (EF 
___ and chronic atrial fibrillation on warfarin, chronic 
UTIs on bladder dwells transferred from OSH for hypotension in 
the setting of a fib with RVR. Pt only received 20 minutes of 
dialysis and sent to osh for AFib w/ RVR. There, he was 
hypotensive to SBP in the ___ but reportedly asymptomatic. He 
received 1.5L NS, 100mg toprol and 5 mg lopressor IV. Patient 
was transferred to ___ as his cardiologist is here.
  
He denied CP, palps or SOB, or any other symptoms at any time.  
In the ED intial vitals were: 97.4 85 106/70 18 95%. ED resident 
was planning to give 20 mg dilt IV but spoke with Dr. ___ 
reports ___ BP has dropped in the past s/p dilt so was given 
another dose of lopressor 5 mg IV and metoprolol 50 mg PO (last 
dose appears ~2230). Felt he was HD stable BP 120s/70s, did not 
require cardioversion at this time. Dr. ___ patient in the 
emergency room.  

Of note, pt has had several prior admissions for hypotension in  

setting of AFib with RVR. Most often occurs whenever he misses 
his home metoprolol this results in uncontrolled RVR and 
hypotension. Most recently was admitted ___ with 
similar complaint. Had to be started on dilt gtt in the CCU as 
his home Metop was restarted.  
Vitals prior to transfer were: 118 98/69 20 97% RA  
On the floor, patient is very tired (it is about 2AM) but denies 
any acute complaints. Still fully asymptomatic.  
 
Past Medical History:
- ESRD (multifactorial ___ HTN and obstructive nephropathy). On  

dialysis since ___. Has LUE AVF.  
- Afib, on Coumadin  
- HTN  
- CHF (outpatient TTE ___ with LVEF ___ and subsequent  
recovery with EF 48% on office study ___  
- Gout  
- PVD  
- Hypothyrodism  
- Cricopharyngeal dysphagia ___ neck fracture  
- Sleep apnea not on home CPAP  
- Anemia of chronic disease ___ renal dysfunction  
- NIDDM, resolved with weight loss, A1C<5% in ___  
- H/O autonomic dysfunction, remitted (no longer on midodrine  
and fludrocortisone). Persistent volume-sensitive BP regulation. 
 
 
Social History:
___
Family History:
HTN
 
Physical Exam:
ADMISSION:
Vitals: 97.8 92/67 ___ R20 96RA  
General: Awakens to voice easily, oriented, no acute distress  
HEENT: oral mucosa dry  
Neck: supple, JVP not elevated, no LAD  
Lungs: Decreased sounds at bilateral lung bases R>L, no  
wheezes or crackles  
CV: Irregular, S1, S2, no murmurs, rubs, gallops  
Abdomen: soft, non-tender, non-distended  
Ext: Warm, well perfused, no clubbing, cyanosis or edema; left  
foot with wound at heel without purulence.  
drainage; LUE with AV fistula with palpable thrill  
Neuro: ___, moving all extremities, speech fluent but very 
drowsy/sleepy  

DISCHARGE:
Vitals: 97.7  102/63  67  19 97RA  
General: Alert, oriented, no acute distress  
HEENT: NCAT  
Neck: supple, JVP not elevated
Lungs: CTAB
CV: Irregular, S1, S2, no murmurs, rubs, gallops  
Abdomen: soft, non-tender, non-distended  
Ext: Warm, well perfused, no clubbing, cyanosis or edema; left  
foot with wound at heel without purulence.  
drainage; LUE with AV fistula with palpable thrill  
Neuro: ___, moving all extremities, speech fluent 
 
Pertinent Results:
LABS:

___ 04:13AM BLOOD WBC-8.2 RBC-2.98* Hgb-9.7* Hct-31.4* 
MCV-106* MCH-32.6* MCHC-30.9* RDW-13.8 Plt ___
___ 04:13AM BLOOD ___ PTT-57.7* ___
___ 04:13AM BLOOD Glucose-101* UreaN-68* Creat-8.5*# Na-141 
K-6.3* Cl-104 HCO3-23 AnGap-20
___ 11:49AM BLOOD Na-138 K-6.2* Cl-104
___ 04:13AM BLOOD Calcium-9.0 Phos-4.5 Mg-2.___ with ESRD on HD, HTN, CHF, atrial fibrillation on warfarin 
who was admitted from dialysis for Afib with RVR and 
hypotension.  
 
ACTIVE ISSUES:

# Atrial Fibrillation with RVR: Mr. ___ was admitted with 
hypotension and tachycardia, which per his PCP/cardiologist and 
prior records is not unusual for the patient and likely due to 
mild hypovolemia prior to HD without receiving an initial fluid 
bolus. Patient was asymptomatic. He received metoprolol 5mg IV 
and 50mg PO, and HR controlled down from 120s to ___.  He was 
continued with metoprolol 50mg QID, and transitioned to his home 
dose of metoprolol succinate 100mg BID. He remained in atrial 
fibrillation, with rate controlled in the ___ during his 
admission.  He successfully underwent hemodialysis on ___, with 
1L of fluid off. Patient is very sensitive to fluid shifts 
during dialysis. We advised ___ that he 
should receive IVF prior to HD if BP is low on arrival. If SBP < 
110, give 500mL of fluid prior to HD. If SBP < 100, give 1000mL 
of fluid prior to HD. INR was 4.2 so coumadin held on ___. 
Discussed with his dialysis center to recheck INR in HD ___, 
and redose coumadin as necessary.

# Hypotension: Likely due to hypovolemia related to HD, causing 
tachycardia with poor filling times, thereby worsening 
hypotension. Blood pressure improved with heart rate control. 

CHRONIC ISSUES:

# Anemia: Chronic, likely related to ESRD. Previous iron studies 
c/w anemia of chronic disease, recent vit b12/folate normal.  

# ESRD: Did not complete HD session as outpatient ___ given 
Afib with RVR. Successfully underwent HD on ___ as inpatient. 
Continued nephrocaps, sevelamer, Cinacalcet.
 
# Hypothyroidism: Continued on home Levothyroxine  

# Gout:  Continued on home allopurinol.

# Left heel wound: Patient with left heel wound, did not appear 
infected, no purulent drainage.  
 
# Aspiration precaution and diet per last speech/swallow 
recommendations. However, patient and wife were upset with these 
diet restrictions, and insisted on a regular diet, understanding 
the need for low potassium and low sodium diet.

TRANSITIONAL ISSUES:
- Check INR in HD ___, coumadin dosing per dialysis center. 
- Patient is very sensitive to fluid shifts during dialysis. 
Advised ___ Dialysis Center that he should receive IVF 
prior to HD if BP is low on arrival. If SBP < 110, give 500mL of 
fluid prior to HD. If SBP < 100, give 1000mL of fluid prior to 
HD.
- Resume prior HD schedule: ___, Th, Sa
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol 50 mg PO DAILY 
2. Docusate Sodium 100 mg PO BID 
3. Furosemide 80 mg PO 4X/WEEK (___) 
4. Levothyroxine Sodium 100 mcg PO DAILY 
5. Metoprolol Succinate XL 100 mg PO BID 
6. Neomycin-Polymyxin B GU 1 mL / 1000 ml SW ___ Q24H 
7. Nephrocaps 1 CAP PO DAILY 
8. Pantoprazole 40 mg PO Q12H 
9. sevelamer CARBONATE 1600 mg PO TID W/MEALS 
10. Sucralfate 1 gm PO TID 
11. Warfarin 4 mg PO DAILY16 
12. Cinacalcet 30 mg PO DAILY 
13. Clotrimazole Cream 1 Appl TP BID 
14. Finasteride 5 mg PO DAILY 

 
Discharge Medications:
1. Allopurinol 50 mg PO DAILY 
2. Cinacalcet 30 mg PO DAILY 
3. Clotrimazole Cream 1 Appl TP BID 
4. Docusate Sodium 100 mg PO BID 
5. Finasteride 5 mg PO DAILY 
6. Levothyroxine Sodium 100 mcg PO DAILY 
7. Nephrocaps 1 CAP PO DAILY 
8. Pantoprazole 40 mg PO Q12H 
9. sevelamer CARBONATE 1600 mg PO TID W/MEALS 
10. Sucralfate 1 gm PO TID 
11. Furosemide 80 mg PO 4X/WEEK (___) 
12. Neomycin-Polymyxin B GU 1 mL / 1000 ml SW ___ Q24H 
13. Metoprolol Succinate XL 100 mg PO BID 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Atrial fibrillation with rapid ventricular rhythm
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Mr. ___,

It was a pleasure taking care of you at ___.  You were 
admitted because you had fast heart rate during hemodialysis on 
___.  We gave you an extra dose of metoprolol, which helped 
control your heart rate and your blood pressure improved. You 
had a session of hemodialysis session today, which you tolerated 
well.  Your heart rate was much better here in the hospital. 
There have been no changes in your medications. Please resume 
your prior home medications, and go to your dialysis session as 
scheduled tomorrow.
 
Followup Instructions:
___